US09085555B2
C. (3-Carbamoyl-6-methoxy-indol-1-yl)-acetic acid
To a solution of (3-carbamoyl-6-methoxy-indol-1-yl)-acetic acid tert-butyl ester (300 mg, 0.99 mmol) in CH2Cl2 (9 mL) was added TFA (4.5 mL) at RT, and stirring was continued for 2 h. Methanol was then added to the reaction mixture, and volatiles were removed in vacuo. The residue was taken up in methanol and concentrated under reduced pressure to afford the title compound as a grey solid: MS: 249 [M+H]+, 497 [2M+H]+; tR (HPLC conditions c): 2.86 min. The material thus obtained was used in the next reaction step without further purification.

reactant | (3-carbamoyl-6-methoxy-indol-1-yl)-acetic acid tert-butyl ester | 0.99 mmol, 300 mg | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OC)C(N)=O)=O | C16H20N2O4
reactant | TFA | 4.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Methanol | CO | CH4O
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | (3-Carbamoyl-6-methoxy-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=CC(=CC=C12)OC)CC(=O)O | C12H12N2O4
